US09382222B2
Step 4: (6-(1-Methanesulfonyl-piperidin-4-ylamino)-pyridine-3-sulfonic acid (4-fluoro-phenyl)-isobutyl-amide)
To a solution of 4-{5-[(4-fluoro-phenyl)-isobutyl-sulfamoyl]-pyridin-2-ylamino}-piperidine-1-carboxylic acid tert-butyl ester (66 mg, 130 μmol) in DCM (8 mL) was added TFA (2 mL) and the reaction was stirred at room temperature for 30 minutes. The reaction was concentrated and purified by SCX column eluting with 2M NH3 in MeOH to give 6-(piperidin-4-ylamino)-pyridine-3-sulfonic acid (4-fluoro-phenyl)-isobutyl-amide (41 mg, 101 μmol). To a solution of 6-(piperidin-4-ylamino)-pyridine-3-sulfonic acid (4-fluoro-phenyl)-isobutyl-amide (41 mg, 101 μmol) in DCM (5 mL) was added DIPEA (35 μL, 202 μmol) followed by methane sulfonylchloride (1 mL of a 78 μL, 1 mmol solution in 10 mL of DCM) and the reaction stirred at room temperature for 30 minutes. Water and saturated NaHCO3 were then added, extracted, filtered through a phase separator, concentrated and purified by silica gel column chromatography (0-50% EtOAc in cyclohexane) to give the title compound (49 mg). 1H NMR (400 MHz, DMSO): δ 8.03 (d, J=2.52 Hz, 1H), 7.54 (d, J=7.47 Hz, 1H), 7.35 (dd, J=8.95, 2.54 Hz, 1H), 7.17 (t, J=8.01 Hz, 4H), 6.51 (d, J=8.98 Hz, 1H), 3.91 (br s, 1H), 3.51 (d, J=11.88 Hz, 2H), 3.25 (d, J=7.31 Hz, 2H), 2.86 (m, 5H), 1.97 (d, J=12.65 Hz, 2H), 1.44-1.49 (m, 2H), 0.82 (d, J=6.63 Hz, 6H). LCMS (m/z, Method B) ES+ 485.0 [M+1]+.

reactant | 6-(piperidin-4-ylamino)-pyridine-3-sulfonic acid (4-fluoro-phenyl)-isobutyl-amide | 101 μmol, 41 mg | FC1=CC=C(C=C1)N(S(=O)(=O)C=1C=NC(=CC1)NC1CCNCC1)CC(C)C | C20H27FN4O2S
reactant | DIPEA | 202 μmol, 35 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methane sulfonylchloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 6-(1-Methanesulfonyl-piperidin-4-ylamino)-pyridine-3-sulfonic acid (4-fluoro-phenyl)-isobutyl-amide | 49 mg | FC1=CC=C(C=C1)N(S(=O)(=O)C=1C=NC(=CC1)NC1CCN(CC1)S(=O)(=O)C)CC(C)C | C21H29FN4O4S2
